US09403832B2
Part B. (S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-N-methylpyrrolidin-3-amine
(S)-tert-butyl (1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-3-yl)carbamate (3.6 g, 9.4 mmol) taken up in 15 mL DMF and cooled to 0° C. in an ice bath. Iodomethane (1.026 mL, 16.5 mmol) added and stirred 5 minutes. Then sodium hydride 60% in oil (754 mg, 18.8 mmol) was slowly added. Reaction stirred 5 minutes at 0° C. then removed from ice bath and stirred 30 minutes at room temperature. Reaction was quenched with ice then extracted with ethyl acetate 2×. Ethyl acetate fractions combined dried over magnesium sulfate filtered reduce in vacuo. This was then taken up in 26 mL DCM and 4 mL TFA added. Stirred 1 hour until complete by LC/MS. Reaction washed with 1N NaOH, DCM layer removed dried over magnesium sulfate filtered, reduced in vacuo to get 2.72 g crude product carried on as is to part C. LRMS (ESI) m/z 296/298 [(M+H)]+, calc'd for C11H14BrN5: 296.17.

reactant | (S)-tert-butyl (1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-3-yl)carbamate | 9.4 mmol, 3.6 g | BrC=1C=NN2C1N=C(C=C2)N2C[C@H](CC2)NC(OC(C)(C)C)=O | C15H20BrN5O2
reactant | Iodomethane | 16.5 mmol, 1.026 mL | IC | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-N-methylpyrrolidin-3-amine | 2.72 g | BrC=1C=NN2C1N=C(C=C2)N2C[C@H](CC2)NC | C11H14BrN5
